US07534797B2
cis-3-[4-Amino-5-(2-phenylquinolin-7-yl)-pyrrolo[2,3-d]pyrimidin-7-yl]cyclobutanecarboxylic acid amide
A mixture of cis-3-(4-amino-5-iodopyrrolo[2,3-d]pyrimidin-7-yl)-cyclobutanecarboxylic acid amide (131 mg, 0.367 mmol), 2-phenyl-7-(4,4,5,5-tetramethyl-[2,3,2]dioxaborolan-2-yl)-quinoline (146 mg, 0.441 mmol), Na2CO3 (97.2 mg, 0.917 mmol), Pd(PPh3)4 (25.5 mg, 0.0221 mmol), DMF (5 mL), and water (1 mL) was purged with nitrogen for 30 min and heated to 80° C. for 18 h. To the cooled reaction solution was added water (15 mL), the mixture was extracted with EtOAc (3×20 mL), the combined organic layers were washed with water (2×15 mL) and brine, dried over MgSO4, filtered, and concentrated. The residue was triturated with MeOH to give the title compound as yellow solid. 1H NMR (CDCl3, 400 MHz): δ=2.60-2.70 (m, 4H), 2.84-2.90 (m, 1H), 5.14-5.23 (quintet, 1H, J=8.7 Hz), 6.31 (brs, 2H), 6.92 (s, 1H), 7.40 (s, 1H), 7.50-7.62 (m, 3H), 7.78-7.82 (m, 2H), 8.08-8.10 (d, 1H, J=8.4 Hz), 8.15-8.23 (m, 3H), 8.30-8.37 (m, 2H), 8.49-8.51 (d, 1H, J=8.4 Hz). MS (ES+): 435.0 [MH+]. HPLC: tR=2.4 min (polar—5 min).

reactant | cis-3-(4-amino-5-iodopyrrolo[2,3-d]pyrimidin-7-yl)-cyclobutanecarboxylic acid amide | 0.367 mmol, 131 mg | NC=1C2=C(N=CN1)N(C=C2I)[C@H]2C[C@H](C2)C(=O)N | C11H12IN5O
reactant | 2-phenyl-7-(4,4,5,5-tetramethyl-[2,3,2]dioxaborolan-2-yl)-quinoline | 0.441 mmol, 146 mg | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)B1CC(C(O1)(C)C)(C)C | C22H24BNO
reactant | Na2CO3 | 0.917 mmol, 97.2 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.0221 mmol, 25.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 15 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | cis-3-[4-Amino-5-(2-phenylquinolin-7-yl)-pyrrolo[2,3-d]pyrimidin-7-yl]cyclobutanecarboxylic acid amide | NC=1C2=C(N=CN1)N(C=C2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)[C@H]2C[C@H](C2)C(=O)N | C26H22N6O
